US09314464B2
Intermediate. 4-(3-Iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-amine
A mixture of crude Intermediate 3-(dimethylamino)-1-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)prop-2-en-1-one (4.0 g, 12.0 mmol), guanidine hydrochloride (2.63 g, 27.6 mmol), lithium hydroxide (635 mg, 27.6 mmol), and sec-butanol (50 ml) was heated with stirring in a sealed reaction vessel at 110° C. for 20 h. The cooled reaction mixture was concentrated, then water was added and the mixture was extracted with ethyl acetate. The combined extracts were dried over sodium sulfate, filtered, and concentrated. Ethyl acetate was added to the solid residue, and the mixture was sonicated. The solid product was collected on a filter, rinsed with ethyl acetate, and dried to give the title compound as a tan solid. MS m/z 330.0 (M+1).

reactant | 3-(dimethylamino)-1-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)prop-2-en-1-one | 12.0 mmol, 4.0 g | CN(C=CC(=O)C=1C(=NN(C1)C(C)C)I)C | C11H16IN3O
reactant | guanidine hydrochloride | 27.6 mmol, 2.63 g | Cl.NC(=N)N
reactant | lithium hydroxide | 27.6 mmol, 635 mg | [OH-].[Li+]
solvent | sec-butanol | 50 ml | C(C)(CC)O | C4H10O
product | 4-(3-Iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-amine | IC1=NN(C=C1C1=NC(=NC=C1)N)C(C)C | C10H12IN5
